US06486210B2
A solution of 3,4-dihydroxyphenylacetylene (0.02 mol), 2,4,6-trimethoxybenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to General Procedure 2 to form (Z)-3,4-dihydroxystyryl-2,4,6-trimethoxybenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to General Procedure 2.

reactant | 3,4-dihydroxyphenylacetylene | 0.02 mol | OC=1C=C(C=CC1O)C#C | C8H6O2
reactant | 2,4,6-trimethoxybenzyl mercaptan | 0.02 mol | COC1=C(CS)C(=CC(=C1)OC)OC | C10H14O3S
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-3,4-dihydroxystyryl-2,4,6-trimethoxybenzylsulfide | OC=1C=C(\C=C/C(C2=C(C=C(C=C2OC)OC)OC)SC(C2=C(C=C(C=C2OC)OC)OC)\C=C/C2=CC(=C(C=C2)O)O)C=CC1O | C36H38O10S
